* PSpice Model
*$
*PART NUMBER:DNI_2PIN
*Stand-in model for a part with a Do Not Install directive
*Version:1
********************************************
.SUBCKT RESNET_4P_2K2 1 2 3 4 5 6 7 8

.PARAM
+ RN = { 2.2E03 }

R1 1 8 { RN }
R2 2 7 { RN }
R3 3 6 { RN }
R4 4 5 { RN }

.ENDS RESNET_4P_2K2
